US07122543B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoate
To a solution of methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate (1.43 g, 2.8149 mmol) in toluene (32 ml) were added tetrakistriphenylphosphine palladium (98 mg, 0.0848 mmol), aqueous solution of sodium carbonate (2M aqueous solution, 3.66 ml), lithium chloride (239 mg, 5.6381 mmol) and ethanolic solution (5.9 ml) of pyridine-4-boronic acid pinacol cyclic ester (866 mg, 4.2243 mmol) and the mixture was heated with stirring at 95° C. for 16 hours. The reaction solution was diluted with ethyl acetate (200 ml), washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (910 mg, 2.0823 mmol, 74%).

reactant | methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 2.8149 mmol, 1.43 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
reactant | sodium carbonate | 2M, 3.66 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 5.6381 mmol, 239 mg | [Cl-].[Li+]
reactant | pyridine-4-boronic acid pinacol cyclic ester | 4.2243 mmol, 5.9 ml, 866 mg | B1(OC(C(O1)(C)C)(C)C)C2=CC=NC=C2 | C11H16BNO2
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoate | 2.0823 mmol, 910 mg, 74% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C25H27NO6
